US06936612B2
To a solution of 8-cyclopentyl-6-(2-ethoxy-ethoxy)-2-methylsulfanyl-8H-pyrido[2,3-d]pyrimidin-7-one (289 mg, 0.83 mmol) in chloroform (5 mL) was added 2-benzenesulfonyl-3-phenyl-oxaziridine (281 mg, 1.07 mmol). The reaction mixture was stirred at RT overnight, under nitrogen. The solvents were removed and the crude product was chromatographed on silica gel, eluting with a 5% methanol-ethyl acetate/hexane gradient to give 8-cyclopentyl-6-(2-ethoxy-ethoxy)-2-methanesulfinyl-8H-pyrido[2,3-d]pyrimidin-7-one as a clear oil (210 mg, 0.56 mmol). 1H NMR δ(400 MHz, CDCl3) 8.84 (s, 1H), 6.89 (s, 1H), 6.06-5.98 (m, 1H), 4.23 (t, J=4.0 Hz, 2H), 3.89 (t, J=4.0 Hz, 2H), 3.60 (q, J=6.9 Hz, 2H), 2.95 (s, 3H), 2.28-2.19 (m, 2H), 2.15-2.10 (m, 2H), 1.97-1.88 (m, 2H), 1.71-1.64 (m, 2H), 1.21 (t, J=6.9 Hz, 3H); MS (APCI+) 350 (M+1).

reactant | 8-cyclopentyl-6-(2-ethoxy-ethoxy)-2-methylsulfanyl-8H-pyrido[2,3-d]pyrimidin-7-one | 0.83 mmol, 289 mg | C1(CCCC1)N1C(C(=CC2=C1N=C(N=C2)SC)OCCOCC)=O | C17H23N3O3S
reactant | 2-benzenesulfonyl-3-phenyl-oxaziridine | 1.07 mmol, 281 mg | C1(=CC=CC=C1)S(=O)(=O)N1OC1C1=CC=CC=C1 | C13H11NO3S
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
product | 8-cyclopentyl-6-(2-ethoxy-ethoxy)-2-methanesulfinyl-8H-pyrido[2,3-d]pyrimidin-7-one | 0.56 mmol, 210 mg | C1(CCCC1)N1C(C(=CC2=C1N=C(N=C2)S(=O)C)OCCOCC)=O | C17H23N3O4S
